US05175157
2-[(N-(3-(4-Methoxy-N-methyl-phenylamino)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy- 1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(4-methoxy-N-methyl-phenylamino)-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy- 1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C17H24N2O3
reactant | 1-chloro-3-(4-methoxy-N-methyl-phenylamino)-propane | ClCCCN(C)C1=CC=C(C=C1)OC | C11H16ClNO
product | 2-[(N-(3-(4-Methoxy-N-methyl-phenylamino)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N(C)CCCN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C28H39N3O4.2ClH/c1-29(23-8-10-24(33-2)11-9-23)13-6-15-30-14-5-7-21(19-30)20-31-16-12-22-17-26(34-3)27(35-4)18-25(22)28(31)32;;/h8-11,17-18,21H,5-7,12-16,19-20H2,1-4H3;2*1H
